US06579993B2
3-Chloromethyl-4-(4-fluoro-benzoyl)-benzonitrile
A solution of 4-fluoro phenylmagnesium bromide (0.73 M in THF, 170 ml) was added to a cooled solution of 2-chloromethyl-4-cyano-benzoyl chloride (25.0 g) in toluene (200 ml) so that the temperature did not raise above 0° C. The mixture was stirred at 0° C. for 2 hours. An aqueous solution of HCl (250 ml) was added and stirring continued for 0.5 hours. The phases were separated and the aqueous phase was extracted with toluene (200 ml). The combined organic phases were washed with saturated NaHCO3 solution (200 ml) and water (100 ml). The solvents were evaporated in vacuo to give a brownish oil (29.0 g, 90%). Spectral and analytical data were in accordance with the example above.

reactant | 4-fluoro phenylmagnesium bromide | 0.73 M, 170 ml | FC1=CC=C(C=C1)[Mg]Br
reactant | 2-chloromethyl-4-cyano-benzoyl chloride | 25.0 g | ClCC1=C(C(=O)Cl)C=CC(=C1)C#N | C9H5Cl2NO
reactant | HCl | 250 ml | Cl | ClH
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Chloromethyl-4-(4-fluoro-benzoyl)-benzonitrile | 29.0 g, 90% | ClCC=1C=C(C#N)C=CC1C(C1=CC=C(C=C1)F)=O | C15H9ClFNO
